US07507740B2
(ii) Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-chloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidine (100 mg) in 1-methyl-2-pyrrolidone (1.0 mL) was added 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (225 mg), and the mixture was heated to 140° C. and stirred for 1.5 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (25 mL), and extracted with ethyl acetate (30 mL×3). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (eluent:hexane/ethyl acetate=95/5→0/100). The object fraction was concentrated under reduced pressure. The residue was recrystallized from a mixed solvent of diisopropyl ether and chloroform, collected by filtration and dried under reduced pressure to give the title compound (121 mg) as a pale-purple powder crystals.

reactant | 4-chloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidine | 100 mg | ClC=1C2=C(N=CN1)C=CN2C | C7H6ClN3
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 225 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 25 mL | C(O)([O-])=O.[Na+]
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 121 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2C | C20H16ClFN4O
